US04242507
In 1 N aqueous sodium hydroxide (13.0 ml) and water is dissolved 1-hydroxy-6-chloro-1,2,3-benzotriazole (2.23 g) and thereto is added dropwise a solution of benzylsulfonyl chloride (2.5 g) in ether (50 ml) under ice-cooling and stirring, and the mixture is stirred at the same temperature for 1.5 hours and further at room temperature for 1 hour. The reaction mixture is distilled to remove ether. To the resulting residue is added ethyl acetate. The ethyl acetate layer is dried and distilled to remove the solvent. The residue is recrystallized from benzene-n-hexane to give white needles of 1-benzylsulfonyloxy-6-chloro-1,2,3-benzotriazole (2.4 g), melting point: 126.5°-127.5° C.

reactant | 1-hydroxy-6-chloro-1,2,3-benzotriazole | 2.23 g | ON1N=NC2=C1C=C(C=C2)Cl | C6H4ClN3O
reactant | benzylsulfonyl chloride | 2.5 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | sodium hydroxide | 1 N, 13.0 ml | [OH-].[Na+]
solvent | water | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-benzylsulfonyloxy-6-chloro-1,2,3-benzotriazole | 2.4 g | C(C1=CC=CC=C1)S(=O)(=O)ON1N=NC2=C1C=C(C=C2)Cl | C13H10ClN3O3S
